US09085576B2
Synthesis of 5-bromo-2-fluoro-1-iodo-3-methylbenzene
A PFA plastic round bottom flask was charged with a solution of hydrogen fluoride pyridine (70 wt % HF, 100 ml, 1150 mmol). The solution was cooled to 0° C. and 4-bromo-2-iodo-6-methylaniline (9.2 g, 29.5 mmol, Organic Letters 2009, 11, 249-251) was added portion wise. After 15 minutes, sodium nitrite (1.032 ml, 32.4 mmol) was added and the reaction mixture was stirred at 0° C. for additional 15 minutes. The reaction mixture was allowed to warm to room temperature and stirred for 15 minutes, followed by heating at 90° C. for 3 hour. The reaction mixture was then cooled to room temperature and quenched with water and diethyl ether. The organic layer was separated, washed with brine and dried over magnesium sulfate. The filtrate was concentrated under reduced pressure. The crude material was purified via silica gel chromatography eluting with hexanes to afford the title compound (8.45 g, 26.8 mmol, 91% yield) as a brown solid. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 2.29 (s, 3H) 7.27-7.34 (m, 1H) 7.64-7.75 (m, 1H)

reactant | hydrogen fluoride pyridine | 1150 mmol, 100 ml | N1=CC=CC=C1.F
reactant | 4-bromo-2-iodo-6-methylaniline | 29.5 mmol, 9.2 g | BrC1=CC(=C(N)C(=C1)C)I | C7H7BrIN
reactant | sodium nitrite | 32.4 mmol, 1.032 ml | N(=O)[O-].[Na+]
product | 5-bromo-2-fluoro-1-iodo-3-methylbenzene | 26.8 mmol, 8.45 g, 91% yield | BrC=1C=C(C(=C(C1)I)F)C | C7H5BrFI
